US07300951B2
(2S,3R)-2-azido-5,5,5-trifluoro-3-methylpentanoic acid (3.2 g, 17.27 mmol), 10% palladium on carbon (0.79 g), glacial acetic acid (37 mL) and water (90 mL) was placed under an atmosphere of hydrogen (40 psi) and shaken on Parr hydrogenator. After 20 h, the reaction mixture was filtered through a pad of the Celite® reagent which was rinsed well with H2O (20 mL). The filtrate was concentrated under reduced pressure to produce a white solid. The solid was triturated with EtOAc (200 mL), filtered and washed once more with EtOAc (200 mL) then air dried to give 5,5,5-trifluoro-L-alloisoleucine as a white solid (2.7 g, 96%). Mass Spectrum (−ESI): 184 (M−H)−.

reactant | (2S,3R)-2-azido-5,5,5-trifluoro-3-methylpentanoic acid | 17.27 mmol, 3.2 g | N(=[N+]=[N-])[C@H](C(=O)O)[C@@H](CC(F)(F)F)C | C6H8F3N3O2
reactant | acetic acid | 37 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.79 g | [Pd] | Pd
solvent | water | 90 mL | O | H2O
product | 5,5,5-trifluoro-L-alloisoleucine | 2.7 g, 96% | FC(C[C@H]([C@H](N)C(=O)O)C)(F)F | C6H10F3NO2
